US05143910
2-Chloro-3,4-dihydroxybenzoic acid is p-methoxybenzylated with potassium carbonate and p-methoxybenzyl bromide in dimethylformamide to give p-methoxybenzyl 2-chloro-3,4-bis(p-methoxybenzyloxy)benzoate. This is hydrolyzed with sodium hydroxide to give 2-chloro-3,4-bis(p-methoxybenzyloxy)benzoic acid.

reactant | 2-Chloro-3,4-dihydroxybenzoic acid | ClC1=C(C(=O)O)C=CC(=C1O)O | C7H5ClO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | p-methoxybenzyl bromide | COC1=CC=C(CBr)C=C1 | C8H9BrO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | p-methoxybenzyl 2-chloro-3,4-bis(p-methoxybenzyloxy)benzoate | ClC1=C(C(=O)OCC2=CC=C(C=C2)OC)C=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC | C31H29ClO7
